US05143920
B. Preparation of 3-butyryl-4-(3,5-dimethyl-4-hydroxyphenylamino)-8-methoxyquinoline
2,6-Dimethyl-4-aminophenol (0.78 g, 5.69 mmol) and 3-butyryl-4-chloro-8-methoxyquinoline (1.0 g, 3.79 mmol) in dioxan (35 ml) were refluxed under nitrogen for 2.5 hours. The solvent was evaporated, and the residue treated with saturated sodium bicarbonate solution and chloroform. The resulting solid was filtered, washed with chloroform and water, boiled in methanol and filtered again to give the title compound (0.84 g) m.p. 287°-9° (dec).

reactant | 2,6-Dimethyl-4-aminophenol | 5.69 mmol, 0.78 g | CC1=C(C(=CC(=C1)N)C)O | C8H11NO
reactant | 3-butyryl-4-chloro-8-methoxyquinoline | 3.79 mmol, 1.0 g | C(CCC)(=O)C=1C=NC2=C(C=CC=C2C1Cl)OC | C14H14ClNO2
solvent | dioxan | 35 ml | O1CCOCC1 | C4H8O2
product | 3-butyryl-4-(3,5-dimethyl-4-hydroxyphenylamino)-8-methoxyquinoline | 0.84 g | C(CCC)(=O)C=1C=NC2=C(C=CC=C2C1NC1=CC(=C(C(=C1)C)O)C)OC | C22H24N2O3
